US07847101B2
A solution of 4-benzothiazol-2-yl-1H-pyrazol-3-ylamine (1.1 g, 5.0 mmol) in 20 mL of formic acid was heated to 70° C. overnight. The formic acid was evaporated under reduced pressure and the resulting crude material was recrystallized from ethanol to yield 1.1 g (90%) of N-(4-benzothiazol-2-yl-1H-pyrazol-3-yl)-formamide.

reactant | 4-benzothiazol-2-yl-1H-pyrazol-3-ylamine | 5.0 mmol, 1.1 g | S1C(=NC2=C1C=CC=C2)C=2C(=NNC2)N | C10H8N4S
reactant | formic acid | 20 mL | C(=O)O | CH2O2
product | N-(4-benzothiazol-2-yl-1H-pyrazol-3-yl)-formamide | 1.1 g, 90% | S1C(=NC2=C1C=CC=C2)C=2C(=NNC2)NC=O | C11H8N4OS
